US09227970B2
c) N*2*,N*2*-Dimethyl-[1,2,4]triazolo[1,5-a]pyridine-2,6-diamine
Using (2-dimethylamino-[1,2,4]triazolo[1,5-a]pyridin-6-yl)-carbamic acid tert-butyl ester, this compound was prepared following the same method as for the synthesis of 2-morpholin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-6-ylamine. White solid (64 mg, 83%). MS: m/z=178 (M+H+).

reactant | (2-dimethylamino-[1,2,4]triazolo[1,5-a]pyridin-6-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1C=CC=2N(C1)N=C(N2)N(C)C)=O | C13H19N5O2
reactant | 2-morpholin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-6-ylamine | N1(CCOCC1)C1=NN2C(C=CC(=C2)N)=N1 | C10H13N5O
product | N*2*,N*2*-Dimethyl-[1,2,4]triazolo[1,5-a]pyridine-2,6-diamine | CN(C1=NN2C(C=CC(=C2)N)=N1)C | C8H11N5
